data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_564699_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([O:7][C:2]([O:8][H:9])([H:10])[H:11])[C:4](=[C:5]([H:15])[H:16])[O:6]1>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4](=[C:5]([H:15])[H:16])[O:6][C:2]([O:8][H:9])([H:10])[H:11])=[O:7],22.43751749999348
MR_87966_0,[C:1]([C:2](/[C:3](=[N:7]/[H:13])[H:17])([H:15])[H:16])([C:4]([H:19])([H:20])[H:21])([C:5]([N:6]([H:10])[H:11])([N:8]([H:12])[H:14])[H:18])[H:9]>>[C:1]([C:2]([C:3]([N:7]([H:13])[H:14])([H:17])[H:18])([H:15])[H:16])([C:4]([H:19])([H:20])[H:21])(/[C:5]([N:6]([H:10])[H:11])=[N:8]/[H:12])[H:9],42.04563749999664
MR_140062_0,[C:1]([n:3]1[n:4]([C:2]([H:11])([H:12])[H:13])[n:5]1[O:6][H:7])([H:8])([H:9])[H:10]>>[C:1]([N:3]([N:4]([C:2]([H:11])([H:12])[H:13])[N:5]=[O:6])[H:7])([H:8])([H:9])[H:10],27.639492500021703
MR_268918_1,[C:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:3](\[N:5]([H:9])[H:10])[O:7][H:8])([N:6]([H:11])[H:12])([H:13])[H:14]>>[C:1](=[C:4]([C:2]([H:15])([H:16])[H:17])[C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[O:7][H:8])([H:13])[H:14],64.59422249995939
MR_91061_2,[C:1]([N:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])/[C:8](=[C:6](\[C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:4]1[C@@:6]([C:3]([H:19])([H:20])[H:21])([N:7]([H:10])[H:11])[C@@:8]1([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])[H:12])([H:13])([H:14])[H:15],71.35867249996636
MR_103677_2,[C:1]([C:2]([C:3](=[C:5]([H:20])[H:22])[H:15])([H:13])[H:14])([C:6]([C:4]([H:17])([H:18])[H:19])([N:8]([H:12])[H:21])[H:16])([N:7]([H:10])[H:11])[H:9]>>[C:1]([C:2]([C:3]([C:5]([H:20])([H:21])[H:22])([H:15])[H:16])([H:13])[H:14])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:8]/[H:12])([N:7]([H:10])[H:11])[H:9],54.822792500018096
MR_78998_0,[C:1]([O:5][C:2]([H:12])([H:13])[H:14])(/[N:6]=[C:4](\[N:3]([H:7])[H:8])[H:11])([H:9])[H:10]>>[C:1](=[N:6][C:4]([N:3]([H:7])[H:8])([O:5][C:2]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10],60.29459249997146
MR_305241_0,[C:1]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])=[O:8])([N:5]([H:11])[H:12])([C:6](=[C:7]([H:17])[H:18])[H:13])[H:10]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])([C:4]([C:6](=[C:7]([H:17])[H:18])[H:13])=[O:8])([N:5]([H:11])[H:12])[H:10],72.5151549999714
MR_191053_0,[C:1]([C:3]([O:5][H:8])=[O:6])([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10]>>[C:1](=[C:3]([O:5][H:8])[O:6][C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10],52.68489999995836
MR_530183_2,[C:1](=[C:4](/[C:2]([H:15])([H:16])[H:17])[C:3]([C:5](=[O:9])[H:14])([O:6][H:10])[O:7][H:11])(\[O:8][H:12])[H:13]>>[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:3]([O:6][H:10])[O:7][H:11])([C:5](=[O:9])[H:14])([O:8][H:12])[H:13],48.85024750000923
MR_255498_0,[C:1]([N:3](/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6]/[O:5][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:6](/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:3]/[H:8])[O:5][H:7])([H:9])([H:10])[H:11],72.58606250000639
MR_54452_2,[C:1]1([O:7][H:9])([H:11])[C:5]([N:4]([C:3]([H:15])([H:16])[H:17])[H:10])([O:6][C:2]([H:12])([H:13])[H:14])[O:8]1>>[C:1]([N:4]([C:3]([H:15])([H:16])[H:17])[H:10])([C:5]([O:6][C:2]([H:12])([H:13])[H:14])=[O:8])([O:7][H:9])[H:11],29.8250749999967
MR_250520_1,[C:1]([C:3]([N:2]([N:4]([H:9])[H:10])[H:8])=[O:6])([O:5][H:7])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:6])[H:8])[N:4]([H:9])[H:10])([O:5][H:7])([H:11])[H:12],57.47209749999939
MR_211124_1,[C:1](/[C:2]([O:5][N:3]([H:7])[H:8])=[N:6]\[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2](=[O:5])[N:6]([N:3]([H:7])[H:8])[N:4]([H:9])[H:10])([H:11])([H:12])[H:13],35.433042499998635
MR_691739_2,[C:1]1([O:6][N:4]([H:8])[H:9])([H:7])[C:2]([H:10])([H:11])[C:3]1=[C:5]([H:12])[H:13]>>[C:1](=[C:2]([H:10])[H:11])([C:3](=[C:5]([H:12])[H:13])[O:6][N:4]([H:8])[H:9])[H:7],65.73689999999928
MR_193486_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([N:5]([H:8])[H:9])/[N:6]=[N:7]\[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:3]([N:5]([H:8])[H:9])=[N:6][N:7]1[H:10])([H:11])([H:12])[H:13],40.06211000001088
MR_160358_0,[C:1]([C:3](/[C:2]([O:6][H:8])=[N:7]\[H:9])=[C:5](\[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[N:7]([H:9])[C@@:5]1([N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],42.904057500005166
MR_445918_2,[C:1](\[C:4]([H:22])([H:23])[H:24])(=[C:8](\[C:9]([N:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])([C:6]([N:7]([H:12])[H:13])=[C:10]([H:25])[H:26])[H:15])[H:14])[H:11]>>[C:1]([C:4]([H:22])([H:23])[H:24])([N:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])(/[C:8](=[C:9](/[C:6]([N:7]([H:12])[H:13])=[C:10]([H:25])[H:26])[H:15])[H:14])[H:11],62.65838499999589
MR_169964_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[N:5]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:4](/[C:3]([H:15])([H:16])[H:17])[N:7]([N:5]([H:10])[H:11])[O:6][H:8])[H:9],67.24917499999776
